US06284756B1
Preparation of 6-Hydroxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]-2-[4-[2-hydroxyethoxy]phenyl]benzo[b]thiophene
To 6-hydroxy-2-[4-(2-methoxy-2-oxoethoxy)phenyl]-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]benzo[b]thiophene (36 mg) in THF (2 mL) was added lithium aluminum hydride (16 mg) and the mixture was stirred under argon at ambient temperature for 1 h. The reaction was quenched with water (1 mL) and sodium hydroxide solution (1.0 M, 1 mL) while stirring continued for 30 min. The mixture was then diluted with brine (50 mL) and extracted with dichloromethane (30 mL×3). The combined organic layers were dried with sodium sulfate and concentrated in vacuo. Chromatography with Et3N:MeOH:EtOAc (5:10:85) afforded the product (29 mg).

reactant | 6-hydroxy-2-[4-(2-methoxy-2-oxoethoxy)phenyl]-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]benzo[b]thiophene | 36 mg | OC=1C=CC2=C(SC(=C2CC2=CC(=C(C=C2)CN2CCCC2)OC)C2=CC=C(C=C2)OCC(=O)OC)C1 | C30H31NO5S
reactant | lithium aluminum hydride | 16 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-Hydroxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]-2-[4-[2-hydroxyethoxy]phenyl]benzo[b]thiophene | 29 mg | OC=1C=CC2=C(SC(=C2CC2=CC(=C(C=C2)CN2CCCC2)OC)C2=CC=C(C=C2)OCCO)C1 | C29H31NO4S
